US06992067B2
b) 5-[Benzyl-(2,3,4,5,6-pentahydroxyhexyl)amino]pentanoic acid (37)
At room temperature, 0.46 g of methyl 5-[benzyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]pentanoate is dissolved in a mixture of 5 ml of ethanol and 5 ml of water, 0.4 g of potassium hydroxide is added and the mixture is stirred at 80° C. for 2 h. The cooled reaction mixture is then concentrated under reduced pressure and the residue is taken up in water, neutralized with hydrochloric acid and again concentrated. The crude product is suspended in ethanol, the suspension is filtered and the filtrate is concentrated under reduced pressure. This gives 5-[benzyl-(2,3,4,5,6-pentahydroxyhexyl)amino]pentanoic acid of molecular weight 371.43 (C18H29NO7); MS (ESI): 372.2 (M+H+).

reactant | methyl 5-[benzyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]pentanoate | 0.46 g | C(C1=CC=CC=C1)N(CCCCC(=O)OC)CC(C(C(C(CO)O)O)O)O | C19H31NO7
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-[Benzyl-(2,3,4,5,6-pentahydroxyhexyl)amino]pentanoic acid | C(C1=CC=CC=C1)N(CCCCC(=O)O)CC(C(C(C(CO)O)O)O)O | C18H29NO7
